US07459562B2
E) tert-Butyl 4-(2-fluoro-4-nitrophenoxy)-3-vinylpyridin-2-ylcarbamate
A solution of 4-(2-fluoro-4-nitrophenoxy)-3-vinylpyridin-2-amine (60 mg, 0.22 mmol) in 1,4-dioxane (0.5 mL) and tert-butyl alcohol (1.5 mL) was treated with Boc2O (140 mg, 0.64 mmol) and heated at 65° C. for 5 h. The mixture was cooled, partitioned between EtOAc and saturated aq. NaHCO3 solution. The EtOAc phase was separated, washed with brine, dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash chromatography on SiO2 to give the title compound (50 mg, 60%) as a yellow solid. 1H NMR (DMSO-d6) δ 9.37 (s, 1H), 8.41 (dd, 1H, J=10.7, 2.5 Hz), 8.22 (d, 1H, J=5.6 Hz), 8.15 (d, 1H, J=8.6 Hz), 7.42 (t, 1H, J=8.6 Hz), 6.86 (d, 1H, J=5.6 Hz), 6.58 (dd, 1H, J=17.8, 11.7 Hz), 5.82 (d, 1H, J=16.3 Hz), 5.52 (d, 1H, J=11.7 Hz), 1.42 (s, 9H); MS(ESI+): m/z 376.18 (M+H)+.

reactant | 4-(2-fluoro-4-nitrophenoxy)-3-vinylpyridin-2-amine | 0.22 mmol, 60 mg | FC1=C(OC2=C(C(=NC=C2)N)C=C)C=CC(=C1)[N+](=O)[O-] | C13H10FN3O3
reactant | Boc2O | 0.64 mmol, 140 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | tert-butyl alcohol | 1.5 mL | C(C)(C)(C)O | C4H10O
product | tert-Butyl 4-(2-fluoro-4-nitrophenoxy)-3-vinylpyridin-2-ylcarbamate | 50 mg, 60% | FC1=C(OC2=C(C(=NC=C2)NC(OC(C)(C)C)=O)C=C)C=CC(=C1)[N+](=O)[O-] | C18H18FN3O5
